US08076516B2
Reduction reaction of 5-(3-(1-hydroxy-3-(2,2,2-trifluoro acetamido) propyl)phenyl)-N,N-dimethylpent-4-ynamide in EtOH gave 5-(3-(1-hydroxy-3-(2,2,2-trifluoroacetamido)propyl)phenyl)-N,N-dimethylpentanamide as yellow oil. Yield (0.63 g, 99%): 1H NMR (400 MHz, CDCl3) δ 7.62 (bs, 1H), 7.24-7.28 (m, 1H), 7.19 (s, 1H), 7.12 (m, 2H), 4.85 (t, J=6.8 Hz, 1H), 3.57-3.65 (m, 1H), 3.35-3.44 (m, 1H), 2.99 (s, 3H), 2.92 (s, 3H), 2.65 (t, J=6.8 Hz, 2H), 2.29 (t, J=6.8 Hz, 2H), 1.98-2.03 (m, 2H), 1.62-1.68 (m, 4H).

reactant | 5-(3-(1-hydroxy-3-(2,2,2-trifluoro acetamido) propyl)phenyl)-N,N-dimethylpent-4-ynamide | OC(CCNC(C(F)(F)F)=O)C=1C=C(C=CC1)C#CCCC(=O)N(C)C | C18H21F3N2O3
solvent | EtOH | CCO | C2H6O
product | 5-(3-(1-hydroxy-3-(2,2,2-trifluoroacetamido)propyl)phenyl)-N,N-dimethylpentanamide | OC(CCNC(C(F)(F)F)=O)C=1C=C(C=CC1)CCCCC(=O)N(C)C | C18H25F3N2O3
